US08871756B2
N-[5-Chloro-2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethane-1,2-diamine
The mixture of 2-(4,5-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine prepared above and ethane-1,2-diamine (2 mL) was heated with stirring in a 10 mL microwave process vial for 2 hours at 150° C. under microwave irradiation. The reaction mixture was diluted with ethyl acetate (20 mL), and then washed with water (20 mL). The organic fraction was dried over sodium sulfate, and concentrated under reduced pressure to give a residue which was purified by preparative HPLC to give 20 mg of product as a white powder. MS obsd. (ESI+) [(M+H)+] 367. 1H NMR (400 MHz, CD3OD) δ ppm 7.46-7.42 (m, 2 H), 7.27-7.23 (m, 1 H), 7.16-7.11 (m, 3 H), 7.02 (66, J=7.6, 1.2 Hz, 1 H), 5.97 (s, 1 H), 4.79 (s, 2 H), 4.13 (brs, 2 H), 3.38-3.21 (m, 2 H), 3.04-3.02 (m, 2 H), 2.96 (t, J=6.0 Hz, 2 H), 1.91-1.86 (m, 2 H).

reactant | 2-(4,5-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine | ClC1=CC(=NC2=CC=CC(=C12)Cl)N1CC2=C(CCC1)C=CC=C2 | C19H16Cl2N2
reactant | ethane-1,2-diamine | 2 mL | C(CN)N | C2H8N2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-[5-Chloro-2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethane-1,2-diamine | 20 mg | ClC1=C2C(=CC(=NC2=CC=C1)N1CC2=C(CCC1)C=CC=C2)NCCN | C21H23ClN4
